US07812183B2
and 2,2-Dimethyl-4-(6-phenyl-pyridazin-3-yloxy)-2H-chromene-6-carbonitrile (Compound #53)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 6-phenyl-2H-pyridazin-3-one as starting materials, the title compounds were prepared as white solids.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 6-phenyl-2H-pyridazin-3-one | C1(=CC=CC=C1)C=1C=CC(NN1)=O | C10H8N2O
product | 2,2-Dimethyl-4-(6-phenyl-pyridazin-3-yloxy)-2H-chromene-6-carbonitrile | CC1(OC2=CC=C(C=C2C(=C1)OC=1N=NC(=CC1)C1=CC=CC=C1)C#N)C | C22H17N3O2
